US05910506
Synthesis of 2-Aminomethyl-1-benzyl-5-(3,5-dichlorophenylthio)-4-isopropylimidazole (Compound I-70)
1-Benzyl-2-chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1H-imidazole (28e)was synthesized from [1-benzyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1H-imidazol-2-yl]methanol by the same synthetic process as that for (28a)in Example 66, and without purification of this compound, 2-azidomethyl-1-benzyl-5-(3,5-dichlorophenylthio)-4-isopropylimidazole (29e)was obtained by the same synthetic process as that for (29a)in Example 66. Oil.

reactant | 1-Benzyl-2-chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1H-imidazole | C(C1=CC=CC=C1)N1C(=NC(=C1SC1=CC(=CC(=C1)Cl)Cl)C(C)C)CCl | C20H19Cl3N2S
reactant | [1-benzyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1H-imidazol-2-yl]methanol | C(C1=CC=CC=C1)N1C(=NC(=C1SC1=CC(=CC(=C1)Cl)Cl)C(C)C)CO | C20H20Cl2N2OS
product | 2-Aminomethyl-1-benzyl-5-(3,5-dichlorophenylthio)-4-isopropylimidazole | NCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)CC1=CC=CC=C1 | C20H21Cl2N3S
